US05929117
1-(3,4-Dimethoxyphenyl)-1-(3-ethoxy-4-methoxyphenyl)prop-1-ene was prepared analogously to methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3,4-dimethoxy-3'-ethoxy-4'-methoxybenzophenone (1.6 g, 5 mmol), (ethyl)triphenylphosphonium bromide (2.04 g, 5.5 mmol) and lithium hexamethyldisilazide (4.2 mL, 5.5 mmol, 1.3M) with a reaction time of 24 hours at room temperature. The crude mixture was purified by flash column chromatography (silica gel, 10% hexane/methylene chloride) to afford 0.8 g (49%) of a mixture of the E and Z isomers as a white solid: mp 65.5-68° C.; 1H NMR (CDCl3) δ 6.95-6.65 (m, 12H), 6.14-6.00 (m, 2H), 4.11-3.78 (m, 22H), 1.86-1.74 (m, 6 H), 1.50-1.36 (m, 6H); 13C NMR (CDCl3) δ 148.5, 148.4, 148.1, 147.7, 141.8, 141.7, 136.1, 136.0, 132.6, 132.5, 122.5, 122.3, 119.7, 114.7, 113.1, 111.9, 111.0, 110.7, 110.4, 55.9, 55.8, 55.8, 55.7, 15.7, 14.7; Anal. Calcd for C20H24O4. Theoretical: C, 73.15; H, 7.37. Found: C, 73.33; H, 7.39.

reactant | methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4-dimethoxy-3'-ethoxy-4'-methoxybenzophenone | 5 mmol, 1.6 g | COC=1C=C(C(=O)C2=CC(=C(C=C2)OC)OCC)C=CC1OC | C18H20O5
reactant | lithium hexamethyldisilazide | 5.5 mmol, 1.3M, 4.2 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
catalyst | (ethyl)triphenylphosphonium bromide | 5.5 mmol, 2.04 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(3,4-Dimethoxyphenyl)-1-(3-ethoxy-4-methoxyphenyl)prop-1-ene | COC=1C=C(C=CC1OC)C(=CC)C1=CC(=C(C=C1)OC)OCC | C20H24O4
